US06562828B1
Ethyl 4-Benzyloxyphenoxyacetate
To a solution of 4-benzyloxyphenol (18.34 g) in tetrahydrofuran (150 ml) was added 60% sodium hydride (4.76 g) with ice-cooling, and the mixture was stirred at the same temperature for 15 min. Ethyl bromoacetate (14.2 ml) was added dropwise, and the mixture was stirred at room temperature for 16 hours. After completion of the reaction, 5% hydrochloric acid was added and the mixture was extracted with hexane. The extract was dried over anhydrous magnesium sulfate. The solvent was evaporated and the obtained solid was filtrated with hexane and dried under reduced pressure to give the title compound (21.78 g) as a white solid.

reactant | 4-benzyloxyphenol | 18.34 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)O | C13H12O2
reactant | sodium hydride | 4.76 g | [H-].[Na+]
reactant | Ethyl bromoacetate | 14.2 ml | BrCC(=O)OCC | C4H7BrO2
reactant | hydrochloric acid | Cl | ClH
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | Ethyl 4-Benzyloxyphenoxyacetate | 21.78 g | C(C1=CC=CC=C1)OC1=CC=C(OCC(=O)OCC)C=C1 | C17H18O4
